US06583321B1
Preparation of 4′-Methanesulfonyl-3,4-dicyclopropyloxy-biphenyl
4′-methanesulfonyl-biphenyl-3,4-diol (30 mg) and potassium carbonate (38 mg) were dissolved in methylethylketone. Afterward, bromocyclopropane (0.027 ml) was added and heated for 24 hours at 40° C. After filtering just potassium carbonate, the residue was separated through a silica gel attributed chromatography (an eluting agent: ethylacetate/n-hexane=1/1, v/v). As a result, the present compound (29 mg, productive yield 87%) was obtained.

reactant | 4′-methanesulfonyl-biphenyl-3,4-diol | 30 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)O)O | C13H12O4S
reactant | potassium carbonate | 38 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromocyclopropane | 0.027 ml | BrC1CC1 | C3H5Br
reactant | methylethylketone | CC(=O)CC | C4H8O
product | 4′-Methanesulfonyl-3,4-dicyclopropyloxy-biphenyl | yield 87% | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)OC1CC1)OC1CC1 | C19H20O4S
